US07973030B2
(Step a) Synthesis of 2-butyl-2-(hydroxymethyl)hexanal
An aqueous solution of 1 N sodium hydroxide (150 mL) was added dropwise to a solution of 209 g of dibutylacetaldehyde (supplied from Aldrich) and 127 g of an aqueous solution of 35% formalin (supplied from Wako Pure Chemical Industries) in 1500 mL of methanol under ice cooling, and stirred at room temperature overnight. Then 2 L of ether and 2 L of water were added to the reaction solution, and the mixture was separated into two liquid phases. The organic layer was dried on sodium sulfate anhydrate and concentrated, to yield 248 g of the title compound.

reactant | sodium hydroxide | 1 N, 150 mL | [OH-].[Na+]
reactant | dibutylacetaldehyde | 209 g | C(CCC)C(C=O)CCCC | C10H20O
reactant | formalin | C=O | CH2O
reactant | ether | 2 L | CCOCC | C4H10O
solvent | methanol | 1500 mL | CO | CH4O
solvent | water | 2 L | O | H2O
product | 2-butyl-2-(hydroxymethyl)hexanal | 248 g | C(CCC)C(C=O)(CCCC)CO | C11H22O2
